US06949573B2
2-(3,5-Difluoro-phenoxy)-5-fluoro-nicotinic acid ethyl ester
The title compound was prepared from ethyl 2-chloro-5-fluoronicotinate and 3,5-difluorophenol in 23% yield following the procedure described in preparation 72.

reactant | ethyl 2-chloro-5-fluoronicotinate | ClC1=C(C(=O)OCC)C=C(C=N1)F | C8H7ClFNO2
reactant | 3,5-difluorophenol | FC=1C=C(C=C(C1)F)O | C6H4F2O
product | 2-(3,5-Difluoro-phenoxy)-5-fluoro-nicotinic acid ethyl ester | 23% yield | C(C)OC(C1=C(N=CC(=C1)F)OC1=CC(=CC(=C1)F)F)=O | C14H10F3NO3
